US07714010B2
Analogously to general procedure (I) N-(3,3-dimethyl-6-nitro-2-oxo-2,3-dihydro-1H-indol-5-yl)-acetamide (1.2 g) is alkylated using 1-bromomethyl-4-chloro-benzene (0.98 g; 4.77 mmol) and K2CO3 (1.8 g; 13 mmol) at RT for 18 h. After aqueous work-up the crude material is de-acetylated using hydrochloric acid (60 ml; 6 N) at reflux. After aqueous work-up 5-amino-1-(4-chloro-benzyl)-3,3-dimethyl-6-nitro-1,3-dihydro-indol-2-one (1.44 g) is obtained and used without further purification.

reactant | N-(3,3-dimethyl-6-nitro-2-oxo-2,3-dihydro-1H-indol-5-yl)-acetamide | 1.2 g | CC1(C(NC2=CC(=C(C=C12)NC(C)=O)[N+](=O)[O-])=O)C | C12H13N3O4
reactant | 1-bromomethyl-4-chloro-benzene | 4.77 mmol, 0.98 g | BrCC1=CC=C(C=C1)Cl | C7H6BrCl
reactant | K2CO3 | 13 mmol, 1.8 g | C(=O)([O-])[O-].[K+].[K+]
solvent | hydrochloric acid | 6 N, 60 ml | Cl | ClH
product | 5-amino-1-(4-chloro-benzyl)-3,3-dimethyl-6-nitro-1,3-dihydro-indol-2-one | 1.44 g | NC=1C=C2C(C(N(C2=CC1[N+](=O)[O-])CC1=CC=C(C=C1)Cl)=O)(C)C | C17H16ClN3O3
